US04791109
Under an inert atmosphere, a solution of 0.2 g of 2[3-[[2-(3,4-dimethoxyphenyl)ethyl]amino]-2-hydroxypropoxy]-N-(1H-indol-4-yl)-benzamide in 5 ml of methanol in the presence of 0.1 ml of formaldehyde with 40% of water was admixed with a solution of 26 mg of sodium cyanoborohydride and 27.2 mg of zinc chloride in 5 ml of methanol and the reaction mixture was left for 2 hours at ambient temperature. 5 ml of 0.1N sodium hydroxide were added, and the mixture was extracted with ethyl acetate. The organic phase was washed with water, dried, and the solvents were eliminated under reduced pressure to obtain 0.230 g of crude product. It was purified by chromatography over silica (eluent: chloroform--ethyl acetate--triethylamine, 6-3-1) to obtain 0.150 g of 2-[3-[[2-(3,4-dimethoxyphenyl)ethyl]methylamino]-2-hydroxypropoxy]-N-(1H-indol-4-yl)-benzamide

reactant | 2[3-[[2-(3,4-dimethoxyphenyl)ethyl]amino]-2-hydroxypropoxy]-N-(1H-indol-4-yl)-benzamide | 0.2 g | COC=1C=C(C=CC1OC)CCNCC(COC1=C(C(=O)NC2=C3C=CNC3=CC=C2)C=CC=C1)O | C28H31N3O5
reactant | formaldehyde | 0.1 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 26 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 0.1N, 5 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
catalyst | zinc chloride | 27.2 mg | [Cl-].[Zn+2].[Cl-]
solvent | water | O | H2O
product | 2-[3-[[2-(3,4-dimethoxyphenyl)ethyl]methylamino]-2-hydroxypropoxy]-N-(1H-indol-4-yl)-benzamide | 0.150 g | COC=1C=C(C=CC1OC)CCN(CC(COC1=C(C(=O)NC2=C3C=CNC3=CC=C2)C=CC=C1)O)C | C29H33N3O5
